US07410981B2
2-(Methylamino)ethyl benzoate hydrochloride
To a mixture of 2-(methylamino)ethanol (30.04 g) and ethyl acetate (90 mL) was dropwise added a mixture of di-tert-butyl dicarbonate (87.30 g) and ethyl acetate (10 mL) under ice-cooling. After stirring at room temperature for 1 hr., benzoyl chloride (61.8 g) and pyridine (38.8 mL) were added under ice-cooling. After stirring at room temperature for 1 hr., a solid was filtered off. The solid was washed with ethyl acetate (100 mL) and the filtrate and the washing were combined, which was washed with water (100 mL) and saturated brine (100 mL). After drying over anhydrous magnesium sulfate, the mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (100 mL), a 4N hydrogen chloride-ethyl acetate solution (200 mL) was added, and the mixture was stirred at room temperature for 30 min. Diethyl ether (100 mL) was added and a solid was collected by filtration. The solid was washed twice with ethyl acetate (100 mL) and dried under reduced pressure at 60° C. to give the title compound (57.4 g) as a white solid.

reactant | 2-(methylamino)ethanol | 30.04 g | CNCCO | C3H9NO
reactant | ethyl acetate | 90 mL | C(C)(=O)OCC | C4H8O2
reactant | di-tert-butyl dicarbonate | 87.30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | benzoyl chloride | 61.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 38.8 mL | N1=CC=CC=C1 | C5H5N
product | 2-(Methylamino)ethyl benzoate hydrochloride | 57.4 g | Cl.C(C1=CC=CC=C1)(=O)OCCNC | InChI=1S/C10H13NO2.ClH/c1-11-7-8-13-10(12)9-5-3-2-4-6-9;/h2-6,11H,7-8H2,1H3;1H
